US06861389B2
2-Dimethylaminomethyleneamino-4-(1-fluoro-1-methylethyl)-6-(1-cyclopropyl-4-phenyl-1-butylamino)-1,3,5-triazine (see Table 8, Example 8-2)
A solution of 1.71 g (5 mmol) of 2-amino-4-(1-fluoro-1-methylethyl)-6-(1-cyclopropyl-4-phenyl-1-butylamino)-1,3,5-triazine and 2 ml of N,N-dimethylformamide dimethyl acetal in 30 ml of toluene is refluxed for 2 hours. All volatile constituents are subsequently carefully distilled off. This gives 1.94 g (97.5% of theory) of 2-dimethylaminomethyleneamino-4-(1-fluoro-1-methylethyl)-6-(1-cyclopropyl-4-phenyl-1-butylamino)-1,3,5-triazine as colorless oil.

reactant | 2-amino-4-(1-fluoro-1-methylethyl)-6-(1-cyclopropyl-4-phenyl-1-butylamino)-1,3,5-triazine | 5 mmol, 1.71 g | NC1=NC(=NC(=N1)C(C)(C)F)NC(CCCC1=CC=CC=C1)C1CC1 | C19H26FN5
reactant | N,N-dimethylformamide dimethyl acetal | 2 ml | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Dimethylaminomethyleneamino-4-(1-fluoro-1-methylethyl)-6-(1-cyclopropyl-4-phenyl-1-butylamino)-1,3,5-triazine | CN(C)C=NC1=NC(=NC(=N1)C(C)(C)F)NC(CCCC1=CC=CC=C1)C1CC1 | C22H31FN6
